US06815547B2
0.347 g of hydroxylamine hydrochloride were added, in several portions, to a mixture of 1 g of methyl (3RS,4RS)-4-[3-oxo-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl)-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate in 10-cm3 of pyridine, with stirring and under an inert atmosphere, and the resulting mixture was stirred in the region of 20° C. for 24 hours and then for 20 hours in the region of 50° C. and for 1.25 hours in the region of 62° C. After cooling in the region of 20° C., the reaction mixture was concentrated to dryness under reduced pressure (1.5 kPa) at a temperature in the region of 50° C. The evaporation residue was taken up in 70-cm3 of ethyl acetate and 40-cm3 of distilled water. The organic phase was separated after settling out, washed 3 times with 40-cm3 of distilled water and 40-cm3 of a saturated sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (2 kPa) at a temperature in the region of 40° C. The evaporation residue was purified by chromatrography under an argon pressure of 50 kPa, on a column of silica gel (particle size 40-60 μm; diameter 3 cm), eluting with a successive mixture of cyclohexane-ethyl acetate (60/40 by volume) and then dichloromethane-methanol (90/10 by volume) and collecting 10-cm3 fractions. Fractions 1 to 21 were combined and then concentrated to dryness according to the conditions described above. 0.813 g of methyl (3RS,4RS)-4-[3-hydroxyimino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate were obtained in the form of a whitish viscous oil.

reactant | hydroxylamine hydrochloride | 0.347 g | Cl.NO
reactant | methyl (3RS,4RS)-4-[3-oxo-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl)-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate | 1 g | O=C(CCC1C(CN(CC1)CCSC1=C(C=CC(=C1)F)F)CC(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C29H31F3N2O4S
solvent | pyridine | 10-cm3 | N1=CC=CC=C1 | C5H5N
product | methyl (3RS,4RS)-4-[3-hydroxyimino-3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2,5-difluorophenylthio)ethyl]piperidine-3-acetate | 0.813 g | ON=C(CCC1C(CN(CC1)CCSC1=C(C=CC(=C1)F)F)CC(=O)OC)C1=C(C=NC2=CC=C(C=C12)OC)F | C29H32F3N3O4S
